US08183271B2
E-5-Fluoro-2-[2-(4-methoxyphenyl)vinyl]benzaldehyde
A solution of 10 g (49.26 mmol) of 2-bromo-5-fluorobenzaldehyde in 200 ml of dry DMF is mixed with 7.27 g (54.18 mmol) of 4-methoxystyrene, 1.5 g (4.93 mmol) of tri-2-tolylphosphine, 330 mg (1.48 mmol) of palladium(II) acetate and 10.3 ml (73.89 mmol) of triethylamine under argon and stirred at 100° C. for 12 hours. After reaction is complete, the reaction solution is cooled to room temperature and concentrated to dryness. The residue is taken up in 100 ml of water and extracted three times with 50 ml of diethyl ether each time. The combined organic phases are dried over sodium sulfate. After filtration, the solution is concentrated to dryness, and the residue is purified by flash chromatography on silica gel (mobile phase: cyclohexane/ethyl acetate 10:1). 7.79 g (55% of theory) of a colorless solid are obtained.

reactant | 2-bromo-5-fluorobenzaldehyde | 49.26 mmol, 10 g | BrC1=C(C=O)C=C(C=C1)F | C7H4BrFO
reactant | 4-methoxystyrene | 54.18 mmol, 7.27 g | COC1=CC=C(C=C)C=C1 | C9H10O
reactant | tri-2-tolylphosphine | 4.93 mmol, 1.5 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 73.89 mmol, 10.3 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
catalyst | palladium(II) acetate | 1.48 mmol, 330 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | E-5-Fluoro-2-[2-(4-methoxyphenyl)vinyl]benzaldehyde | FC=1C=CC(=C(C=O)C1)\C=C\C1=CC=C(C=C1)OC | C16H13FO2
